US09278931B2
E) N-[4-(trans-2-aminocyclopropyl)-2-methylphenyl]benzamide hydrochloride
tert-Butyl {trans-2-[4-(benzoylamino)-3-methylphenyl]cyclopropyl}carbamate (125.8 mg) was dissolved in 4N hydrochloric acid/cyclopentyl methyl ether solution (1.5 mL), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure to give the title compound (95.9 mg).

reactant | tert-Butyl {trans-2-[4-(benzoylamino)-3-methylphenyl]cyclopropyl}carbamate | 125.8 mg | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O)C | C22H26N2O3
reactant | hydrochloric acid cyclopentyl methyl ether | 4N, 1.5 mL | Cl.COC1CCCC1
product | N-[4-(trans-2-aminocyclopropyl)-2-methylphenyl]benzamide hydrochloride | 95.9 mg | Cl.N[C@H]1[C@@H](C1)C1=CC(=C(C=C1)NC(C1=CC=CC=C1)=O)C | InChI=1S/C17H18N2O.ClH/c1-11-9-13(14-10-15(14)18)7-8-16(11)19-17(20)12-5-3-2-4-6-12;/h2-9,14-15H,10,18H2,1H3,(H,19,20);1H/t14-,15+;/m0./s1
